US07994202B2
6-(t-butyldiphenylsiloxy)-1H-indazole
Imidazole (3.0 g, manufactured by Kanto Chemical Co., Inc.) and t-butylchlorodiphenylsilane (12.1 g, manufactured by Tokyo Chemical Industry Co., Ltd.) were added to a solution of 1H-indazol-6-ol (3.0 g) synthesized according to the literature (L. F. Fieser, J. Am. Chem. Soc., 1926, 48, 1097-1107) in N,N-dimethylformamide (100 mL, manufactured by Kanto Chemical Co., Inc.), and the mixture was stirred for 3 hours at room temperature. Water (200 mL) was added to the reaction solution, and the mixture was extracted with diethyl ether (3×200 mL), washed with brine (400 mL), and dried (MgSO4). The solvent was then evaporated. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1), to give 7.3 g of the title compound. LC-MS: HPLC retention time 2.05 minutes, m/z 373 (M+H), condition C-1.

reactant | Imidazole | 3.0 g | N1C=NC=C1 | C3H4N2
reactant | t-butylchlorodiphenylsilane | 12.1 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | 1H-indazol-6-ol | 3.0 g | N1N=CC2=CC=C(C=C12)O | C7H6N2O
reactant | Water | 200 mL | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 6-(t-butyldiphenylsiloxy)-1H-indazole | 7.3 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=CC=C2C=NNC2=C1 | C23H24N2OSi
